US08084448B2
A. 5-[2-Benzyloxy-4-((E)-2-pyridin-3-yl-vinyl)-phenyl]1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared using 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and 3-vinylpyridine analogous to Example 2, step C.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 3-vinylpyridine | C(=C)C=1C=NC=CC1 | C7H7N
product | 5-[2-Benzyloxy-4-((E)-2-pyridin-3-yl-vinyl)-phenyl]1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C=1C=NC=CC1)N1CC(NS1(=O)=O)=O | C22H19N3O4S
